US05817751
3-[5-Benzyl-1-isopentyl-3,6-dioxo-(2R, 5R)-perhydro-2-pyrazinyl]propanoic acid (2)
Hydroxymethyl PAM resin was coupled with Fmoc-D-Glu(OtBu)-OH (Mukaiyama conditions) and reductively alkylated with isovaleraldehyde. Boc-D-Phe was coupled with HOAt/DIC and after Box-deprotection the DKP formed in 4% TEA/toluene (12h). Yield: 88 mg (37%). 1H-NMR (400 MHz, CD3 OD):δ=0.67-0.70 (m, 1 H), 1.09 (2 d, J=6.5 Hz, 6 H), 1.49-1.73 (m, 3 H), 1.80-1.90 (m, 1 H), 2.01-2.10 (m, 1 H), 2.15-2.32 (m, 1 H), 3.13 (dd, J=4.5, 13.7 Hz, 1 H), 3.19 (ddd, J=5.1, 10.1, 15.1 Hz, 1 H), 3.39 (dd, J=5.2, 13.7 Hz, 1 H), 3.81 (ddd, J=5.5, 9.6, 15.1 Hz, 1 H), 3.92 (dd, J=3.6, 9.6 Hz, 1 H), 4.41 (dd, J=5.2, 5.5 Hz, 1 H), 7.30-7.48 (m, 5 H). 13C-NMR (101 MHz, CD3OD): δ=22.8, 27.4, 29.0, 31.1, 36.8, 40.8, 44.8, 57.9, 59.7, 128.5, 129.7, 131.4, 167.3, 169.1, 177.0. Anal. Calcd. for C16H26N2O4.2 H2O: C, 59.67; H, 7.91; N, 8.09, found: C, 59.09; H, 7.06; N, 7.31.

reactant | Fmoc-D-Glu(OtBu)-OH | N([C@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H27NO6
reactant | isovaleraldehyde | C(CC(C)C)=O | C5H10O
reactant | Boc-D-Phe | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | HOAt DIC | C1=CC2=C(N=C1)N(N=N2)O.CC(N=C=NC(C)C)C
solvent | H2O | O | H2O
product | 3-[5-Benzyl-1-isopentyl-3,6-dioxo-(2R, 5R)-perhydro-2-pyrazinyl]propanoic acid | C(C1=CC=CC=C1)[C@H]1NC([C@H](N(C1=O)CCC(C)C)CCC(=O)O)=O | C19H26N2O4
